* C:\Users\tomkr\OneDrive\Dokumente\Desktop\Master\SRP\RF_Research_Project\30_Umsetzung\LTspice\Schaltung und Anpassung.asc
XU4 N001 N006 5V 0 N004 LTC6244
XU5 N012 N009 5V 0 N010 LTC6244
R10 N006 N009 50k
R11 N004 N006 1k
R14 N010 N009 1k
R15 N005 N004 1k
R16 N008 N010 1k
XU6 N008 N005 5V 0 V_ADC LTC6244
R18 V_ADC N005 1k
C4 N001 Q+ 10µ
C6 N012 Q- 10µ
R21 5V N001 5k
R22 N001 0 5k
R23 5V N012 5k
R24 N012 0 5k
V4 N002 0 SINE(0 1 1000)
R17 N007 N003 470k
R27 Q- N007 470k
R30 N011 5V 25k
R31 0 N011 10k
XU2 N011 N007 5V 0 Q- LT1413
XU9 N003 Q+ 5V 0 Q+ LTC6244
C1 N003 N002 10µ
R13 5V N003 25k
R33 N003 0 10k
XU7 N014 N013 5V 0 N013 LT1001
R12 5V N014 5k
R19 N014 0 5k
R20 N008 N013 1k
V1 5V 0 5
V2 0 -5V 5
* Empfänger
* Anpassung Verstärkungsfaktor mit R10
* Sender
.tran 5m
.lib LTC.lib
.lib LTC5.lib
.backanno
.end
